spice
* BJT Differential Pair
* Q1 and Q2 are NPN BJTs

VCC 2 0 DC 10V
VCM 5 0 DC 5V
I1 4 0 DC 1mA

Q1 6 5 4 QNPN
Q2 2 3 4 QNPN

RC1 6 2 10k
RC2 2 2 10k

.model QNPN NPN(IS=1e-14 BF=100)